US05852011
3-Methyl-4-[N,N-bis(2-hydroxyethyl)amino]nitrobenzene
In 30 ml of DMSO, 4.0 g (25.8 mmol) of 2-fluoro-5-nitrotoluene and 7.0 g (67 mmol) of diethanolamine were dissolved. The resultant solution was stirred under heat at 140° C. for 6.5 hours, followed by extraction with ethyl acetate. The solvent was distilled out under reduced pressure. The residue so obtained was washed with ethyl acetate, whereby 5.2 g of the title compound were obtained as yellow powder (yield: 84%).

reactant | 2-fluoro-5-nitrotoluene | 25.8 mmol, 4.0 g | FC1=C(C=C(C=C1)[N+](=O)[O-])C | C7H6FNO2
reactant | diethanolamine | 67 mmol, 7.0 g | N(CCO)CCO | C4H11NO2
solvent | DMSO | 30 ml | CS(=O)C | C2H6OS
product | 3-Methyl-4-[N,N-bis(2-hydroxyethyl)amino]nitrobenzene | 5.2 g | CC=1C=C(C=CC1N(CCO)CCO)[N+](=O)[O-] | C11H16N2O4
